US05364946
Trimethylhydroquinone (2.00 g, 14 mol) was suspended at room temperature in a mixture of chlorobenzene (10 ml) and hexane (5 ml). Boron trifluoride diethyl ether complex (3.60 ml of a 48 percent strength solution of boron trifluoride in diethyl ether, 1.95 g of boron trifluoride, 28 mmol) was then added in the course of 15 min. 1-Chloro-2-methylbut-3-en-2-ol (2.42 g, 20 mmol) was then added dropwise in the course of 15 min. After 30 min.,, the reaction mixture was filtered, and the filtrate was washed with chlorobenzene (10 mol) and dried at 40° C./20 mbar for 8 hours. 2.24 g (62.9 percent) of 2-(1-chloro-2-methylbut-2-en-4-yl)-1,4-dihydroxy-3,5,6-trimethylbenzene were obtained. The melting point of the product was 118° to 122° C. (decomposition). Other data regarding the product was:

reactant | Trimethylhydroquinone | 14 mol, 2.00 g | CC=1C(=C(C(=C(O)C1)C)C)O | C9H12O2
reactant | boron trifluoride | B(F)(F)F | BF3
reactant | boron trifluoride | 1.95 g | B(F)(F)F | BF3
reactant | 1-Chloro-2-methylbut-3-en-2-ol | 20 mmol, 2.42 g | ClCC(C=C)(O)C | C5H9ClO
solvent | chlorobenzene | 10 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | hexane | 5 ml | CCCCCC | C6H14
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | chlorobenzene | 10 mol | ClC1=CC=CC=C1 | C6H5Cl
product | 2-(1-chloro-2-methylbut-2-en-4-yl)-1,4-dihydroxy-3,5,6-trimethylbenzene | 2.24 g, 62.9 percent | ClCC(=CCC1=C(C(=C(C(=C1C)O)C)C)O)C | C14H19ClO2
